US06596711B1
Ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(methyl)phosphinate (Intermediate to the Compound According to the Example 2)
To a solution of ethyl 3-[ethoxy(methyl)phosphoryl]-2-fluorobutanoate (3.0 g, 12.4 mmol) in ethanol (15 mL) was added concentrated ammonium hydroxide (14.8 M, 1.3 mL, 19 mmol). The solution was stirred for 24 h at room temperature and then at 50° C. for 2 hours. Another portion of concentrated ammonium hydroxide (14.8 M, 0.5 mL, 7 mmol) was added and the mixture was stirred at room temperature for three days and then evaporated to give 2.4 g (91%) of a diastereomeric mixture of ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(methyl)phosphinate as a clear oil. 1H NMR (400 MHz, CDCl3) δ5.9-6.7 (m, 2H), 4.9-5.6 (m, 1H), 4.0-4.2 (m, 2H), 2.5-2.8 (m, 1H), 1.2-1.6 (m, 9H).

reactant | ethyl 3-[ethoxy(methyl)phosphoryl]-2-fluorobutanoate | 12.4 mmol, 3.0 g | C(C)OP(=O)(C)C(C(C(=O)OCC)F)C | C9H18FO4P
reactant | ammonium hydroxide | 19 mmol, 14.8 M, 1.3 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 7 mmol, 14.8 M, 0.5 mL | [OH-].[NH4+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(methyl)phosphinate | 2.4 g, 91% | NC(C(C(C)P(OCC)(=O)C)F)=O | C7H15FNO3P
